### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): `ℓ`-adic cohomology

### PR DESCRIPTION
**Pull request by chrisflav**
Let `X` be a scheme and `ℓ` be a prime number. We define the sheaf associated to the topological group `ℤ_[ℓ]` on the pro-étale site of `X` following Definition 6.8.1 of [Bhatt-Scholze](https://www.math.uni-bonn.de/people/scholze/proetale.pdf). Its cohomology groups are the `ℓ`-adic cohomology groups of `X`. We will eventually be able to show that this definition agrees with the classical definition as the inverse limit of étale cohomology groups (see Proposition 5.6.2 in the article cited above).

---

- [x] depends on: #36240 
- [x] depends on: #36325 
- [x] depends on: #36339 
- [x] depends on: #36359 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+  ((ProEt.forget X ⋙ Over.forget _).sheafPushforwardContinuous _ _ proetaleTopology).obj
+    ⟨continuousMapPresheafAb (ℤ_[ℓ]), .of_le proetaleTopology_le_fpqcTopology <|
+      isSheaf_fpqcTopology_continuousMapPresheafAb _⟩
+
+variable (ℓ : ℕ) [Fact ℓ.Prime]
+
+lemma isZero_ellAdicSheaf_of_isEmpty [IsEmpty X] : IsZero (X.ellAdicSheaf ℓ) :=
+  (Sheaf.isTerminalOfEqTop _ (ProEt.topology_eq_top_of_isEmpty _) _).isZero
+
+instance : HasExt.{u + 2} (Sheaf (ProEt.topology X) Ab.{u + 1}) :=
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean]: I think `HasExt.{u + 1}` should hold.
If we add the following to the imports
```lean
public import Mathlib.Algebra.Category.Grp.AB
public import Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughInjectives
public import Mathlib.CategoryTheory.Abelian.GrothendieckAxioms.Sheaf
public import Mathlib.CategoryTheory.Abelian.GrothendieckCategory.EnoughInjectives
```
then we should be able to do
```lean
example (C : Type (u + 1)) [Category.{u + 1} C] (J : GrothendieckTopology C) :
    IsGrothendieckAbelian.{u + 1} (Sheaf J Ab.{u + 1}) :=
  Sheaf.instIsGrothendieckAbelian _ _

instance : IsGrothendieckAbelian.{u + 1} (Sheaf (ProEt.topology X) Ab.{u + 1}) := by
  -- the example above shows that this should be true
  -- it does not work directly because morphisms in `X.ProEt` are in `Type u` not `Type (u + 1)`
  -- the fix would be to generalize universes in the lemma
  -- `isGrothendieckAbelian_of_essentiallySmall` in the file `Abelian.GrothendieckAxioms.Sheaf`
  sorry

instance : HasExt.{u + 1} (Sheaf (ProEt.topology X) Ab.{u + 1}) :=
  hasExt_of_enoughInjectives _
```

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean]: Thanks for the suggestion! This strategy worked.

File: Mathlib/AlgebraicGeometry/Sites/Proetale.lean [hunk 2]
```diff
@@ -130,6 +149,33 @@ lemma topology_eq_inducedTopology :
...
+  exact Functor.inducedTopology_coverPreserving _ _
+
+instance : (ProEt.forget S ⋙ Over.forget S).IsContinuous (ProEt.topology S) proetaleTopology :=
+  Functor.isContinuous_comp _ _ _ (proetaleTopology.over S) _
+
+instance : (topology S).Subcanonical :=
+  GrothendieckTopology.subcanonical_of_full_of_faithful (ProEt.forget S) _ (proetaleTopology.over S)
+
+/-- If `S` is the empty scheme, the pro-étale site over `S` is a point. -/
+noncomputable def equivOfIsEmpty [IsEmpty S] : S.ProEt ≌ PUnit :=
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Sites/Proetale.lean]:
```suggestion
noncomputable def equivOfIsEmpty [IsEmpty S] : S.ProEt ≌ Discrete PUnit :=
```

File: Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean [hunk 3]
```diff
@@ -0,0 +1,87 @@
...
+instance : HasExt.{u + 1} (Sheaf (ProEt.topology X) Ab.{u + 1}) :=
+  hasExt_of_enoughInjectives _
+
+/--
+The sheaf of continuous maps `U ↦ C(U, ℤ_[ℓ])` on the pro-étale site. This the coefficient
+sheaf for `ℓ`-adic cohomology.
+[Definition 6.8.1.][proetale2015]
+-/
+noncomputable def ellAdicSheaf (ℓ : ℕ) [Fact ℓ.Prime] :
+    Sheaf (ProEt.topology X) Ab :=
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean]: Could you make the universe explicit for `Ab` here?

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean]: Thanks for the suggestion, changed.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean [hunk 4]
```diff
@@ -60,6 +62,24 @@ noncomputable instance (n : ℕ) : AddCommGroup (F.H n) := by
...
+    .op <| ((constantSheaf J AddCommGrpCat.{w}).obj (AddCommGrpCat.of (ULift ℤ)))
+
+set_option backward.isDefEq.respectTransparency false in
+instance (n : ℕ) : (cohomologyFunctor J n).Additive := by
+  dsimp [cohomologyFunctor]
+  infer_instance
+
+lemma subsingleton_H_of_isZero {F : Sheaf J AddCommGrpCat.{w}} (h : Limits.IsZero F) (n : ℕ) :
+    Subsingleton (F.H n) := by
+  change Subsingleton ((cohomologyFunctor J n).obj F)
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/Basic.lean]: Can you add a `(cohomologyFunctor J n).obj F = F.H n` lemma instead? Thanks.

File: Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean [hunk 5]
```diff
@@ -0,0 +1,87 @@
...
+variable (X : Scheme.{u})
+
+instance : IsGrothendieckAbelian.{u + 1} (Sheaf (ProEt.topology X) Ab.{u + 1}) := by
+  -- Without this, lean starts searching for `EssentiallySmall.{max (u + 1) ?v}` and fails.
+  have : EssentiallySmall.{u + 1} X.ProEt := inferInstance
+  exact Sheaf.isGrothendieckAbelian_of_essentiallySmall (ProEt.topology X) Ab.{u + 1}
+
+instance : HasExt.{u + 1} (Sheaf (ProEt.topology X) Ab.{u + 1}) :=
+  hasExt_of_enoughInjectives _
+
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean]: Instead, you should import `Mathlib.CategoryTheory.Abelian.GrothendieckCategory.HasExt`. (For a (nonzero) Grothendieck abelian category, there is only one reasonable universe for `Ext`).
```suggestion
```

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean]: Thanks!

File: Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean [hunk 6]
```diff
@@ -0,0 +1,83 @@
...
+- `AlgebraicGeometry.Scheme.EllAdicCohomology`: The pro-étale cohomology groups `Hⁱ(X, ℤ_[ℓ])`.
+
+## Notes
+
+The `ℓ`-adic cohomology groups of `X : Scheme.{u}` are in `Type (u + 1)`, because
+the pro-étale site of `X` has no essentially small subcategory with the same category of sheaves.
+Eventually, we will be able to compare the `ℓ`-adic cohomology defined here with the classical
+definition using étale cohomology. This will show that the groups defined here are indeed `u`-small.
+
+-/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Sites/ElladicCohomology.lean:41]:
```suggestion

## References

- [Bhatt, Bhargav and Scholze, Peter, The pro-étale topology for schemes][proetale2015]

-/
```
